US09024027B2
Step 1. Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-nitro-1,3-dioxoisoindolin-2yl)acetoxy)ethyl)-pyridine 1-oxide (171)
(S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (100 mg, 0.238 mmol) was placed in a 50 ml round bottom flask and dissolved in DMF (3 ml), EDC (45.6 mg, 0.238 mmol), and 2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetic acid (60 mg, 0.238 mmol) were added to it followed by DMAP (29.1 mg, 0.238 mmol). The reaction was stirred at RT for 6 hours. The reaction was quenched by adding 30 ml of HCl/H2O (1M) and extracted with EtOAc (30 ml). The organic phase (EtOAc) was extracted with HCl/H2O (1M; 30 ml; ×3) and subsequently with K2CO3/H2O (15% w/w; 20 ml; ×3) by using a 100 ml extracting funnel. The resulting organic extract was dried over Na2SO4 (0.5 g), filtered on a filter paper, and the solvent removed under reduced pressure. The oil residue was purified by preparative HPLC (Method 2) to yield 120 mg of desired product (yield=77%). 1H NMR (400 MHz, acetone) δ ppm 8.35 (d, J=7.50 Hz, 1H), 8.24-8.30 (m, 1H), 8.16-8.24 (m, 3H), 7.16-7.25 (m, 2H), 7.05 (dd, J=8.16, 1.98 Hz, 1H), 6.94 (t, 1H, CHF2), 6.14 (dd, J=9.48, 4.63 Hz, 1H), 4.52 (s, 2H), 4.01 (dd, J=6.62, 3.97 Hz, 2H), 3.54 (dd, J=14.33, 9.48 Hz, 1H), 3.26-3.40 (m, 1H), 1.25-1.38 (m, 1H), 0.56-0.73 (m, 2H), 0.36-0.48 (m, 2H). MS/ESI+ [MH]+=652.1

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.238 mmol, 100 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.238 mmol, 45.6 mg
reactant | 2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetic acid | 0.238 mmol, 60 mg | [N+](=O)([O-])C=1C=C2C(N(C(C2=CC1)=O)CC(=O)O)=O | C10H6N2O6
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.238 mmol, 29.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-nitro-1,3-dioxoisoindolin-2yl)acetoxy)ethyl)-pyridine 1-oxide | 120 mg, yield=77% | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H21Cl2F2N3O9
